* e-skin LIS3DH active-low chip-select decoder reference deck
* Example: nCS8 is selected by a decoder sink, all other nCS lines remain high.

.param VCC=3.3
.param RPULL=10000
.param RSINK=70
.param RLEAK=1e9

Vvcc vcc 0 {VCC}

Rpull1  vcc ncs1  {RPULL}
Rpull2  vcc ncs2  {RPULL}
Rpull3  vcc ncs3  {RPULL}
Rpull4  vcc ncs4  {RPULL}
Rpull5  vcc ncs5  {RPULL}
Rpull6  vcc ncs6  {RPULL}
Rpull7  vcc ncs7  {RPULL}
Rpull8  vcc ncs8  {RPULL}
Rpull9  vcc ncs9  {RPULL}
Rpull10 vcc ncs10 {RPULL}
Rpull11 vcc ncs11 {RPULL}
Rpull12 vcc ncs12 {RPULL}
Rpull13 vcc ncs13 {RPULL}
Rpull14 vcc ncs14 {RPULL}
Rpull15 vcc ncs15 {RPULL}
Rpull16 vcc ncs16 {RPULL}

Rleak1  ncs1  0 {RLEAK}
Rleak2  ncs2  0 {RLEAK}
Rleak3  ncs3  0 {RLEAK}
Rleak4  ncs4  0 {RLEAK}
Rleak5  ncs5  0 {RLEAK}
Rleak6  ncs6  0 {RLEAK}
Rleak7  ncs7  0 {RLEAK}
Rleak8  ncs8  0 {RLEAK}
Rleak9  ncs9  0 {RLEAK}
Rleak10 ncs10 0 {RLEAK}
Rleak11 ncs11 0 {RLEAK}
Rleak12 ncs12 0 {RLEAK}
Rleak13 ncs13 0 {RLEAK}
Rleak14 ncs14 0 {RLEAK}
Rleak15 ncs15 0 {RLEAK}
Rleak16 ncs16 0 {RLEAK}

Rdecode8 ncs8 0 {RSINK}

.op
.control
run
print v(ncs1) v(ncs2) v(ncs3) v(ncs4) v(ncs5) v(ncs6) v(ncs7) v(ncs8)
print v(ncs9) v(ncs10) v(ncs11) v(ncs12) v(ncs13) v(ncs14) v(ncs15) v(ncs16)
quit
.endc
.end

